US07939540B2
N-[3-(6,7-dimethoxy-2-methylaminoquinazolin-4-yl)phenyl]terephthalamic acid 2-methoxyethyl ester
A mixture consisting of 55 mg (0.11 mmol) of N-[3-(6,7-dimethoxy-2-methylaminoquinazolin-4-yl)phenyl]terephthalamic acid hydrochloride, 40 μL (0.51 mmol) of 2-methoxyethanol, 47 μL of triethylamine, 17 mg of 1-hydroxybenzotriazole hydrate, and 35 mg of WSC hydrochloride, was suspended in 2 mL of dimethylformamide, followed by stirring at room temperature overnight. The reaction mixture was poured into water, and extracted with ethyl acetate. The organic layer was washed with brine, and was then dried over magnesium sulfate. The residue obtained by filtration and solvent distillation under reduced pressure was subjected to silica gel column chromatography (ethyl acetate-heptane). Thereafter, a solid precipitated with ethyl acetate-hexane was collected by filtration, and was dried under aeration to yield 40 mg of the titled compound (yield: 70%).

reactant | N-[3-(6,7-dimethoxy-2-methylaminoquinazolin-4-yl)phenyl]terephthalamic acid hydrochloride | 0.11 mmol, 55 mg | Cl.COC=1C=C2C(=NC(=NC2=CC1OC)NC)C=1C=C(C=CC1)NC(C1=CC=C(C(=O)O)C=C1)=O
reactant | 2-methoxyethanol | 0.51 mmol, 40 μL | COCCO | C3H8O2
reactant | 1-hydroxybenzotriazole hydrate | 17 mg | O.ON1N=NC2=C1C=CC=C2
reactant | WSC hydrochloride | 35 mg | CCN=C=NCCCN(C)C.Cl
solvent | dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate heptane | C(C)(=O)OCC.CCCCCCC
solvent | water | O | H2O
solvent | triethylamine | 47 μL | C(C)N(CC)CC | C6H15N
product | N-[3-(6,7-dimethoxy-2-methylaminoquinazolin-4-yl)phenyl]terephthalamic acid 2-methoxyethyl ester | 40 mg, yield: 70% | COCCOC(C1=CC=C(C(=O)NC2=CC(=CC=C2)C2=NC(=NC3=CC(=C(C=C23)OC)OC)NC)C=C1)=O | C28H28N4O6
